US06995144B2
3-[4-[1-Hydroxy-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one
After suspending 200 mg of 3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one in 6 ml of methanol, an excess of sodium borohydride was added while stirring at room temperature until completion of the reaction. Water was added to the reaction solution and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added and the insoluble portion was filtered out to obtain the title compound (112 mg, 56% yield).

reactant | 3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one | 200 mg | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC=CN1)=O | C18H20FN3O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
product | 3-[4-[1-Hydroxy-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one | 112 mg, 56% yield | OC(CC1=C(C=CC=C1)F)C1CCN(CC1)CC=1C(NC=CN1)=O | C18H22FN3O2
